US09353107B2
Step-ii tert-butyl 4-(5-bromopyrazin-2-yl)piperazine-1-carboxylate
Using similar reaction conditions as described in step i of intermediate 1, tert-butyl 4-(pyrazin-2-yl)piperazine-1-carboxylate (2 g, 7.5 mmol) was brominated with N-bromosuccinimide (1.46 g, 8.25 mmol) in chloroform (20 ml) to afford 1.4 g (54% yield) of the pure product. MS: m/z=343.1 (M+1).

reactant | tert-butyl 4-(pyrazin-2-yl)piperazine-1-carboxylate | 7.5 mmol, 2 g | N1=C(C=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H20N4O2
reactant | N-bromosuccinimide | 8.25 mmol, 1.46 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-(5-bromopyrazin-2-yl)piperazine-1-carboxylate | 1.4 g, 54% yield | BrC=1N=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN4O2
